US08247401B2
To a solution of benzyl[(1R)-2-amino-1-methyl-2-oxoethyl]carbamate (10 g, 45 mmol) in 50 mL of N,N-dimethylformamide was added 2,4,6-trichloro-1,3,5-triazine (4.15 g, 22.5 mmol). After 2 h, 100 mL of water was added and the mixture was filtered. The solids were washed with 100 mL aqueous sodium bicarbonate (2×) and dried under vacuum to give pure benzyl[(1R)-1-cyanoethyl]carbamate (7.2 g). MS 205.2 ((M+1).

reactant | benzyl[(1R)-2-amino-1-methyl-2-oxoethyl]carbamate | 45 mmol, 10 g | C(C1=CC=CC=C1)OC(N[C@@H](C(=O)N)C)=O | C11H14N2O3
reactant | 2,4,6-trichloro-1,3,5-triazine | 22.5 mmol, 4.15 g | ClC1=NC(=NC(=N1)Cl)Cl | C3Cl3N3
reactant | water | 100 mL | O | H2O
solvent | N,N-dimethylformamide | 50 mL | CN(C=O)C | C3H7NO
product | benzyl[(1R)-1-cyanoethyl]carbamate | 7.2 g | C(C1=CC=CC=C1)OC(N[C@H](C)C#N)=O | C11H12N2O2
